US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-2-(2,6-dichlorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxamide
In the same manner as in Example 46 and using 2-(2,6-dichlorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylic acid (370 mg, 1.3 mmol), N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (250 mg, 0.77 mmol), HATU (490 mg, 1.3 mmol), N,N-diisopropylethylamine (340 mg, 2.6 mmol) and N,N-dimethylformamide (15 mL) as starting materials, the title compound (330 mg, 72%) was obtained as a white solid.

reactant | 2-(2,6-dichlorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 1.3 mmol, 370 mg | ClC1=C(C(=CC=C1)Cl)N1N(C=C(C1=O)C(=O)O)C | C11H8Cl2N2O3
reactant | N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.77 mmol, 250 mg | NC1=CC(=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1)F | C17H15FN4O2
reactant | HATU | 1.3 mmol, 490 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 2.6 mmol, 340 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-2-(2,6-dichlorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxamide | 330 mg, 72% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(N(C2)C)C2=C(C=CC=C2Cl)Cl)=O)F)C1 | C28H21Cl2FN6O4
